US07683060B2
Step 6. Methyl 4-[3-(1-quinolin-6-ylcyclopropyl)[1,2,4]triazolo[4,3-b][1,2,4]triazin-6-yl]benzoate
A mixture of methyl 4-(3-hydrazino-1,2,4-triazin-6-yl)benzoate (115 mg, 0.000469 mol) and 1-quinolin-6-ylcyclopropanecarbaldehyde (92 mg, 0.00047 mol) in ethanol (2 mL) and acetic acid (0.5 mL) was stirred at RT for 6 h. The volatiles were removed under reduced pressure. The residue was dried under high vacuum, and then dissolved in methylene chloride (6 mL). To the solution was added iodobenzene diacetate (180 mg, 0.00056 mol). The reaction mixture was stirred at RT overnight. The solvent was evaporated and the residue was flash chromatographed on a silica gel column to afford the desired product (120 mg, 60%). Analytical LCMS: (M+H)+=423.3.

reactant | methyl 4-(3-hydrazino-1,2,4-triazin-6-yl)benzoate | 0.000469 mol, 115 mg | N(N)C=1N=NC(=CN1)C1=CC=C(C(=O)OC)C=C1 | C11H11N5O2
reactant | 1-quinolin-6-ylcyclopropanecarbaldehyde | 0.00047 mol, 92 mg | N1=CC=CC2=CC(=CC=C12)C1(CC1)C=O | C13H11NO
reactant | iodobenzene diacetate | 0.00056 mol, 180 mg | C(C)(=O)O.C(C)(=O)O.IC1=CC=CC=C1
solvent | ethanol | 2 mL | C(C)O | C2H6O
solvent | acetic acid | 0.5 mL | C(C)(=O)O | C2H4O2
product | Methyl 4-[3-(1-quinolin-6-ylcyclopropyl)[1,2,4]triazolo[4,3-b][1,2,4]triazin-6-yl]benzoate | 120 mg, 60% | N1=CC=CC2=CC(=CC=C12)C1(CC1)C1=NN=C2N1N=C(C=N2)C2=CC=C(C(=O)OC)C=C2 | C24H18N6O2
